US08283354B2
A mixture of 4-((R)-2-hydroxy-4-oxo-pentanoyl)-piperazine-1-carboxylic acid benzyl ester (0.13 g, 0.39 mmol) and MeOH (4 mL) was stirred with 10 mg of Pd/C (10% wt Pd on carbon) under H2 atmosphere at ambient pressure overnight. After filtration and evaporation of the solvent, the residue was taken up in CH2Cl2, and 2-(4-chloro-7-methylquinazolin-2-yl)phenol (0.11 g, 0.39 mmol) and triethylamine (0.11 mL, 0.78 mmol) were added. The reaction mixture was stirred at room temperature overnight, washed with water, dried over Na2SO4, and concentrated. Purification via silica gel chromatography using 0-10% MeOH/CH2Cl2 provided (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)pentane-1,4-dione as a yellow solid (91 mg, 54%). LC/MS: m/z 435.5 (M+H)+ at 2.13 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 4-((R)-2-hydroxy-4-oxo-pentanoyl)-piperazine-1-carboxylic acid benzyl ester | 0.39 mmol, 0.13 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C([C@@H](CC(C)=O)O)=O | C17H22N2O5
reactant | 2-(4-chloro-7-methylquinazolin-2-yl)phenol | 0.39 mmol, 0.11 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C15H11ClN2O
reactant | triethylamine | 0.78 mmol, 0.11 mL | C(C)N(CC)CC | C6H15N
catalyst | Pd/C | 10 mg | [Pd] | Pd
solvent | MeOH | 4 mL | CO | CH4O
product | (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)pentane-1,4-dione | 91 mg, 54% | O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CC(C)=O | C24H26N4O4
